### PR TITLE
[Merged by Bors] - feat(RingTheory): adds two lemmas on `Module.length`

### PR DESCRIPTION
**Pull request by BryceT233**
This PR adds two lemmas regarding the length of modules:
* `Submodule.length_le_restrictScalar` shows that the length of an $R$-submodule is less than or equal to its length as an $A$-submodule under scalar restriction.
* `Submodule.length_quotient_lt` shows that for a module of finite length, the length of a quotient module $M \big/ p$ is strictly less than the length of $M$ when the submodule $p$ is non-trivial.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Length.lean [hunk 1]
```diff
@@ -289,3 +289,26 @@ lemma Module.length_eq_finrank
     (K M : Type*) [DivisionRing K] [AddCommGroup M] [Module K M] [Module.Finite K M] :
     Module.length K M = Module.finrank K M := by
   simp [Module.length_of_free]
+
+theorem Submodule.length_le_restrictScalar (A : Type*) [CommRing A] [Algebra A R] [Module A M]
+    [IsScalarTower A R M] (p : Submodule R M) :
+      Module.length R p ≤ Module.length A (p.restrictScalars A) := by
+  rw [← WithBot.coe_le_coe, Module.coe_length, Module.coe_length]
+  let e : Submodule R ↥p ↪o Submodule A ↥(restrictScalars A p) := restrictScalarsEmbedding A R p
+  have (q : Submodule A ↥(restrictScalars A p)) : Subsingleton (e ⁻¹' {q}) := ⟨by
```
Comment (Raph-DG) [inline Mathlib/RingTheory/Length.lean]:
```suggestion
  have (q : Submodule A ↥(restrictScalars A p)) : Subsingleton (e ⁻¹' {q}) := Set.Subsingleton.coe_sort <| Set.Subsingleton.preimage Set.subsingleton_singleton
    (RelEmbedding.injective e)
```

File: Mathlib/RingTheory/Length.lean [hunk 2]
```diff
@@ -289,3 +289,26 @@ lemma Module.length_eq_finrank
...
+    · simp [Order.krullDim_eq_zero]
+    rw [not_nonempty_iff] at h
+    simp [Order.krullDim_eq_bot]
+  simpa using Order.krullDim_le_of_krullDim_preimage_le' e e.monotone this
+
+theorem Submodule.length_quotient_lt [IsArtinian R M] [IsNoetherian R M] (p : Submodule R M)
+    (h : p ≠ ⊥) : Module.length R (M ⧸ p) < Module.length R M := by
+  rw [Module.length_eq_add_of_exact p.subtype p.mkQ p.subtype_injective p.mkQ_surjective
+    (LinearMap.exact_subtype_mkQ p)]
+  nth_rw 1 [← zero_add (Module.length R (M ⧸ p)), ENat.add_lt_add_iff_right Module.length_ne_top]
```
Comment (Raph-DG) [inline Mathlib/RingTheory/Length.lean]:
```suggestion
  exact ENat.lt_add_left Module.length_ne_top
    (Module.length_pos_iff.mpr (nontrivial_iff_ne_bot.mpr h))
```

If you add in a lemma like this:

```
lemma ENat.lt_add_left {m n k : ℕ∞} (h : n ≠ ⊤) (h2 : 0 < k) : n < k + m
```

File: Mathlib/RingTheory/Length.lean (hunk 1 above)
Comment (BryceT233) [reply Mathlib/RingTheory/Length.lean]: Thanks!

File: Mathlib/RingTheory/Length.lean [hunk 3]
```diff
@@ -289,3 +289,24 @@ lemma Module.length_eq_finrank
...
   simp [Module.length_of_free]
+
+theorem Submodule.length_le_restrictScalar (A : Type*) [CommRing A] [Algebra A R] [Module A M]
+    [IsScalarTower A R M] (p : Submodule R M) :
+      Module.length R p ≤ Module.length A (p.restrictScalars A) := by
+  rw [← WithBot.coe_le_coe, Module.coe_length, Module.coe_length]
+  let e : Submodule R ↥p ↪o Submodule A ↥(restrictScalars A p) := restrictScalarsEmbedding A R p
+  have (q : Submodule A ↥(restrictScalars A p)) : Subsingleton (e ⁻¹' {q}) :=
+    Set.Subsingleton.coe_sort <| Set.Subsingleton.preimage Set.subsingleton_singleton e.injective
+  have : ∀ q : Submodule A ↥(restrictScalars A p), Order.krullDim (e ⁻¹' {q}) ≤ (0 : ℕ) := by
```
Comment (WenrongZou) [inline Mathlib/RingTheory/Length.lean]: I was wondering if [`Order.krullDim_nonpos_of_subsingleton`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/KrullDimension.html#Order.krullDim_nonpos_of_subsingleton) will be helpful here.

Comment (BryceT233) [reply Mathlib/RingTheory/Length.lean]: Thanks!

File: Mathlib/RingTheory/Length.lean [hunk 4]
```diff
@@ -289,3 +289,20 @@ lemma Module.length_eq_finrank
     (K M : Type*) [DivisionRing K] [AddCommGroup M] [Module K M] [Module.Finite K M] :
     Module.length K M = Module.finrank K M := by
   simp [Module.length_of_free]
+
+theorem Submodule.length_le_restrictScalar (A : Type*) [CommRing A] [Algebra A R] [Module A M]
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Length.lean]: I would think this name is better.
There is also a free generalization here: the proof carries as is with these typeclasses.
```suggestion
theorem Submodule.length_le_length_restrictScalar (A : Type*) [Ring A] [SMul A R] [Module A M]
```

**Review by robin-carlier — COMMENTED** [review]
Just a minor comments, but LGTM otherwise

File: Mathlib/RingTheory/Length.lean [hunk 5]
```diff
@@ -289,3 +289,20 @@ lemma Module.length_eq_finrank
     (K M : Type*) [DivisionRing K] [AddCommGroup M] [Module K M] [Module.Finite K M] :
     Module.length K M = Module.finrank K M := by
   simp [Module.length_of_free]
+
+theorem Submodule.length_le_length_restrictScalar (A : Type*) [Ring A] [SMul A R] [Module A M]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Length.lean]:
```suggestion
theorem Submodule.length_le_length_restrictScalars (A : Type*) [Ring A] [SMul A R] [Module A M]
```

File: Mathlib/RingTheory/Length.lean [hunk 6]
```diff
@@ -289,3 +289,20 @@ lemma Module.length_eq_finrank
...
+    [IsScalarTower A R M] (p : Submodule R M) :
+      Module.length R p ≤ Module.length A (p.restrictScalars A) := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/Length.lean]:
```suggestion
    Module.length R p ≤ Module.length A (p.restrictScalars A) := by
```

File: Mathlib/RingTheory/Length.lean [hunk 7]
```diff
@@ -289,3 +289,20 @@ lemma Module.length_eq_finrank
...
+  rw [← WithBot.coe_le_coe, Module.coe_length, Module.coe_length]
+  let e : Submodule R ↥p ↪o Submodule A ↥(restrictScalars A p) := restrictScalarsEmbedding A R p
+  have (q : Submodule A ↥(restrictScalars A p)) : Subsingleton (e ⁻¹' {q}) :=
+    Set.Subsingleton.coe_sort <| Set.Subsingleton.preimage Set.subsingleton_singleton e.injective
+  simpa using Order.krullDim_le_of_krullDim_preimage_le' e e.monotone fun _ ↦
+    Order.krullDim_nonpos_of_subsingleton
```
Comment (chrisflav) [inline Mathlib/RingTheory/Length.lean]: Could you please make this part a separate lemma and move it to an earlier file:
```lean4
lemma Order.krullDim_le_of_orderEmbedding {α β : Type*} [Preorder α] [PartialOrder β] (f : α ↪o β) :
    Order.krullDim α ≤ Order.krullDim β := sorry
```

**Comment by BryceT233** [comment]
-awaiting-author

File: Mathlib/RingTheory/Length.lean [hunk 8]
```diff
@@ -289,3 +289,16 @@ lemma Module.length_eq_finrank
...
+    Module.length R p ≤ Module.length A (p.restrictScalars A) := by
+  rw [← WithBot.coe_le_coe, Module.coe_length, Module.coe_length]
+  exact Order.krullDim_le_of_orderEmbedding (restrictScalarsEmbedding A R p)
+
+theorem Submodule.length_quotient_lt [IsArtinian R M] [IsNoetherian R M] (p : Submodule R M)
+    (h : p ≠ ⊥) : Module.length R (M ⧸ p) < Module.length R M := by
+  rw [Module.length_eq_add_of_exact p.subtype p.mkQ p.subtype_injective p.mkQ_surjective
+    (LinearMap.exact_subtype_mkQ p)]
+  exact ENat.lt_add_left Module.length_ne_top
+    (Module.length_pos_iff.mpr (nontrivial_iff_ne_bot.mpr h))
```
Comment (chrisflav) [inline Mathlib/RingTheory/Length.lean]: While this proof is not too long, it is quite a round-about way of proving this (it goes through additivity of length). I would suggest to use a more order theoretic proof, which also gives some other useful lemmas on the way:
```
lemma Order.coheight_lt_top {α : Type*} [Preorder α] [FiniteDimensionalOrder α] (x : α) :
    Order.coheight x < ⊤ := by
  rw [← WithBot.coe_lt_coe]
  apply lt_of_le_of_lt (Order.coheight_le_krullDim x)
  simpa using Order.krullDim_ne_top_of_finiteDimensionalOrder.lt_top

@[simp]
lemma Module.finiteDimensionalOrder_submodule_iff :
    FiniteDimensionalOrder (Submodule R M) ↔ IsFiniteLength R M := by
  rw [← Module.length_ne_top_iff_finiteDimensionalOrder, Module.length_ne_top_iff]

instance [IsArtinian R M] [IsNoetherian R M] : FiniteDimensionalOrder (Submodule R M) := by
  rw [Module.finiteDimensionalOrder_submodule_iff, isFiniteLength_iff_isNoetherian_isArtinian]
  tauto

theorem Submodule.length_quotient_lt [IsArtinian R M] [IsNoetherian R M] (p : Submodule R M)
    (h : p ≠ ⊥) : Module.length R (M ⧸ p) < Module.length R M := by
  rw [Module.length_quotient, Module.length, WithBot.lt_unbot_iff, ← Order.coheight_bot_eq_krullDim,
    WithBot.coe_lt_coe]
  exact Order.coheight_strictAnti (bot_lt_iff_ne_bot.mpr h) (Order.coheight_lt_top p)
```
The lemmas need to be moved to the appropriate place (some of them earlier in this file).

Comment (BryceT233) [reply Mathlib/RingTheory/Length.lean]: Thanks for the detailed suggestion, I've applied your suggestions and moved the new lemmas to their appropriate places.

**Comment by BryceT233** [comment]
-awaiting-author

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/Data/ENat/Basic.lean [hunk 9]
```diff
@@ -397,6 +397,10 @@ protected lemma le_sub_one_of_lt (h : a < b) : a ≤ b - 1 := by
   · simp
   · exact ENat.le_sub_of_add_le_right one_ne_top <| lt_coe_add_one_iff.mp <| lt_tsub_iff_right.mp h
 
+lemma lt_add_left {n k : ℕ∞} (h : n ≠ ⊤) (h' : 0 < k) : n < k + n := by
+  nth_rw 1 [← zero_add n, add_lt_add_iff_right h]
```
Comment (riccardobrasca) [inline Mathlib/Data/ENat/Basic.lean]: Can you use a `calc` bloc?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Data/ENat/Basic.lean (hunk 9 above)
Comment (BryceT233) [reply Mathlib/Data/ENat/Basic.lean]: done!
